US05075738
A benzene solution in which SOAZ was dissolved in a concentration of 0.2 mg/ml and a solution obtained by dissolving PMMA (produced by of Polyscience Co.; syndiotactic; molecular weight: 100,000) in a mixed solution of trichloroethane:benzene=1:9 (V/V) in a concentration of 0.2 mg/ml, were appropriately mixed so as to give the desired mixing ratio, and thereafter the resulting mixed solution was spread on pure water of 20° C. in water temperature to form an SOAZ-PMMA mixed monomolecular film on the water surface. After removal of the solvent by evaporation, the surface pressure of the monomolecular film thus formed was raised up to 20 mN/m. While keeping constant the surface pressure, a substrate provided with the lower electrode 2 (Cr/Au), prepared in the same manner as Example 1, was gently put in water at a rate of 5 mm/min in the direction traversing the water surface, and thereafter subsequently gently drawn up at a rate of 5 mm/min, thus building up a two-layer Y-type mixed monomolecular film. Such operations were repeated several times to form a 12-layer mixed built-up film, thus providing the organic insulating layer 3.

reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | PMMA | CC(=C)C(=O)OC | C5H8O2
reactant | SOAZ | C1CN1P2(=NP(=NS(=N2)(=O)N3CC3)(N4CC4)N5CC5)N6CC6 | C10H20N8OP2S
solvent | trichloroethane | C(C(Cl)Cl)Cl | C2H3Cl3
solvent | water | O | H2O
product | SOAZ PMMA | C1CN1P2(=NP(=NS(=N2)(=O)N3CC3)(N4CC4)N5CC5)N6CC6.CC(=C)C(=O)OC | InChI=1S/C10H20N8OP2S.C5H8O2/c19-22(18-9-10-18)12-20(14-1-2-14,15-3-4-15)11-21(13-22,16-5-6-16)17-7-8-17;1-4(2)5(6)7-3/h1-10H2;1H2,2-3H3
